US04642322
165.2 parts of ethyl p-aminobenzoate are dissolved in 150 parts of ethanolamine and ethanol is then distilled off at 160° C. The volatile constituents are subsequently stripped off in vacuo and the resulting residue is recrystallised from isopropanol. p-Aminobenzoic acid β-hydroxyethylamide of melting point 116° C. is obtained.

reactant | ethyl p-aminobenzoate | NC1=CC=C(C(=O)OCC)C=C1 | C9H11NO2
reactant | ethanolamine | C(O)CN | C2H7NO
solvent | ethanol | C(C)O | C2H6O
product | p-Aminobenzoic acid β-hydroxyethylamide | OCCNC(C1=CC=C(C=C1)N)=O | C9H12N2O2
